US06265575B1
Part A. 1-[2-(2-Hydroxymethyl-4-bromophenoxy)ethyl]pyrrolidine
The title compound was prepared in 52% yield by essentially following the procedures outlined in Example 3, Part D, from 1-(2-chloroethyl)pyrrolidine hydrochloride and 5-bromo-2-hydroxybenzyl alcohol.

reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | Cl.ClCCN1CCCC1
reactant | 5-bromo-2-hydroxybenzyl alcohol | BrC=1C=CC(=C(CO)C1)O | C7H7BrO2
product | 1-[2-(2-Hydroxymethyl-4-bromophenoxy)ethyl]pyrrolidine | 52% yield | OCC1=C(OCCN2CCCC2)C=CC(=C1)Br | C13H18BrNO2
